US07517899B2
(2S,3R)-3-(1H-indol-1-yl)-3-thien-2-ylpropane-1,2-diol (102 mg, 0.37 mmol) was dissolved in pyridine (1.5 mL), para-toluenesulfonyl chloride (88 mg, 0.46 mmol) was added and the mixture was stirred for 16 hours. The mixture was diluted with ethyl acetate and washed with water, a saturated aqueous solution of copper sulfate, and saturated brine. The organic layer was separated, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The crude product was purified via Isco chromatography (Redisep, silica, gradient 0%-100% ethyl acetate in hexane) to afford 140 mg that was immediately dissolved in methylamine (8M solution in ethanol, 15 mL) and stirred for 3 hours. The mixture was concentrated in vacuo and purified via flash column chromatography (silica, gradient 2%-10% methanol saturated with ammonia in chloroform) to give 65 mg (71%) of (1R,2R)-1-(1H-indol-1-yl)-3-(methylamino)-1-(2-thienyl)propan-2-ol as a colorless oil. The freebase was dissolved in diethyl ether (5 mL) and treated with a 1 N ethereal solution of hydrochloric acid (0.23 mL, 0.23 mmol, 1 equivalent). The white precipitate was collected and dried under vacuum to give (1R,2R)-1-(1H-indol-1-yl)-3-(methylamino)-1-(2-thienyl)propan-2-ol hydrochloride. HRMS: calcd for C16H18N2OS+H+, 287.12126; found (ESI, [M+H]+), 287.1209

reactant | (2S,3R)-3-(1H-indol-1-yl)-3-thien-2-ylpropane-1,2-diol | 0.37 mmol, 102 mg | N1(C=CC2=CC=CC=C12)[C@H]([C@@H](CO)O)C=1SC=CC1 | C15H15NO2S
reactant | para-toluenesulfonyl chloride | 0.46 mmol, 88 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylamine | 8M, 15 mL | CN | CH5N
product | (1R,2R)-1-(1H-indol-1-yl)-3-(methylamino)-1-(2-thienyl)propan-2-ol | 65 mg, 71% | N1(C=CC2=CC=CC=C12)[C@H]([C@@H](CNC)O)C=1SC=CC1 | C16H18N2OS
